US08541418B2
To a stirring mixture of 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)thiazole (Compound 2-BA-1) in 50 mL of acetonitrile at rt under nitrogen were added TFA (1 mL) and NIS (10.8 g). The reaction mixture was stirred at rt overnight and an additional amount of NIS (0.5 eq to 1.0 eq) was added as needed. The crude reaction mixture was slowly quenched with ˜30 mL of a saturated aqueous Na2S2O3 solution, and ˜30 mL of a saturated aqueous NaHCO3 solution. The reaction mixture was diluted with 50 mL of EtOAc, the layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL). The organic layer was purified by MPLC (eluted with 0-50% EtOAc/hex) to give 2-(4-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)thiazole (Compound 4-BA-1). LCMS: 408.0 m/z (M+H)+.

reactant | 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)thiazole | C[Si](CCOCN1N=CC=C1C=1SC=CN1)(C)C | C12H19N3OSSi
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NIS | 10.8 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | NIS | 0.5 eq to 1.0 eq | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(4-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)thiazole | IC=1C=NN(C1C=1SC=CN1)COCC[Si](C)(C)C | C12H18IN3OSSi
